US05674856
0.7 g (0.2 mmol) of the compound of Preparation 7 was dissolved in 6 ml of methylene chloride, and 2 ml of a dimethylformamide solution containing 63 mg (0.24 mmol) of pentachlorophenol and 64 mg (0.3 mmol) of 1,3-dicyclohexylcarbodiimide were added to the solution, whilst ice-cooling. The resulting solution was then stirred at room temperature for 7 days. At the end of this time, precipitates were filtered off from the reaction mixture, and the filtrate was freed from the solvent by distillation under reduced pressure. The resulting residue was dissolved in 10 ml of methylene chloride. 100 ml of diethyl ether were added to the solution, whilst ice-cooling, and the resulting precipitates were filtered off. The filtrate was freed from the solvent by distillation under reduced pressure. The filtrate, 37 mg (0.3 mmol) of 4-(dimethylamino)pyridine and 0.25 g of a p-alkoxybenzyl alcohol resin (having 0.9 mmol of amino groups per 1 g of the silica gel surface; produced by Kokusan Kagaku Co. Ltd.) were added to 6 ml of dimethylformamide. The resulting mixture was left at room temperature for 24 hours. The desired carrier, namely a substituted p-alkoxybenzyl alcohol resin was collected, washed with pyridine, with methylene chloride and with diethyl ether, in that order, and dried by evaporation under reduced pressure. 10 ml each of Cap A and B solutions (Nippon Millipore limited) were added to the carrier, and the mixture was left to stand for 15 minutes. The mixture was then washed with methylene chloride, with methanol and with diethyl ether, in that order, and dried by evaporation under reduced pressure, to give the title compound.

reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | pentachlorophenol | 0.24 mmol, 63 mg | ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl | C6HCl5O
reactant | 1,3-dicyclohexylcarbodiimide | 0.3 mmol, 64 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 0.3 mmol, 37 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | p-alkoxybenzyl alcohol resin | 0.25 g | C1=CC=C(C=C1)COC2=CC=C(C=C2)CO | C14H14O2
